US07838543B2
4′-Fluoro-2′-methyl-biphenyl-4-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide
The title compound is prepared by following a procedure analogous to Example 113, Step 1, using N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide (0.15 g, 0.31 mmol) and 4-fluoro-2-methyl-phenyl boronic acid (0.071 g, 0.38 mmol) to afford 0.084 g (59%). LC/MS, Retention time=4.79 min; (m/z): calcd for C26H27FN4OS (M+H)+: 463.6; found: 463.0.

reactant | N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide | 0.31 mmol, 0.15 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(C2=CC=C(C=C2)I)=O)C)C | C19H21IN4OS
reactant | 4-fluoro-2-methyl-phenyl boronic acid | 0.38 mmol, 0.071 g | FC1=CC(=C(C=C1)B(O)O)C | C7H8BFO2
product | 4′-Fluoro-2′-methyl-biphenyl-4-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=CC=C(C=C2)C2=C(C=C(C=C2)F)C)C)C | C26H27FN4OS
